US06225310B1
b) 4-Cyano-5-methyl-3-sulfamoyl-thiophene-2-carbonyl azide
A solution of sodium nitrite (0.47 g) in 5 ml of water was added dropwise to a stirred solution of 4-cyano-2-hydrazinocarbonyl-5-methyl-thiophene-3-sulfonamide (1.6 g) in 38 ml of 1 M hydrochloric acid at 0° C. The resulting mixture was stirred for 30 min at 0° C. and then filtered. The filter cake was washed with water and dried in vacuum to give 1.35 g of the title compound; 1H-NMR (DMSO-d6), δ(ppm): 7.75 (br, 1H, NH2), 2.75 (s, 1H, CH3).

reactant | sodium nitrite | 0.47 g | N(=O)[O-].[Na+]
reactant | 4-cyano-2-hydrazinocarbonyl-5-methyl-thiophene-3-sulfonamide | 1.6 g | C(#N)C=1C(=C(SC1C)C(=O)NN)S(=O)(=O)N | C7H8N4O3S2
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 1 M, 38 ml | Cl | ClH
product | 4-Cyano-5-methyl-3-sulfamoyl-thiophene-2-carbonyl azide | 1.35 g | C(#N)C=1C(=C(SC1C)C(=O)N=[N+]=[N-])S(N)(=O)=O | C7H5N5O3S2
